US07169926B1
A solution of {3-[3-(2-cyano-benzyl)-5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester (66 mg, 0.13 mmol) in 1:3 EtOH/THF (8 mL) was hydrogenated over 10% Pd/C (70 mg, 0.065 mmol) at room temperature. After 2 h, the catalyst was removed by filtration, rinsing with MeOH, and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography, eluting with 90:10:0.5 CH2Cl2/MeOH/NH4OH to give 2-[2-(3-amino-cyclohexyl)-5-ethyl-4-oxo-4,5-dihydro-imidazo[4,5-c]pyridin-3-ylmethyl]-benzonitrile (40 mg, 82% yield). The HCl salt was prepared by treating the amine in EtOAc with ethereal HCl (0.2 mL). 1H-NMR (CDCl3): δ 7.72 (dd, 1H, J=7.6, 1.2 Hz), 7.50 (t, 1H, J=7.6 Hz), 7.39 (t, 1H, J=7.6 Hz), 7.14 (d, 1H, J=7.2 Hz), 6.93 (d, 1H, J=7.6 Hz), 6.72 (dd, 1H, J=7.6, 2.0 Hz), 6.07 (m, 2H), 4.07 (m, 2H), 2.70 (m, 2H), 1.92 (m, 1H), 1.83 (m, 2H), 1.60 (m, 4H), 1.40 (m, 2H), 1.37 (dt, 3H, J=7.2, 3.2 Hz). MS: calculated for C22H25N5O+H 376.2; found: 376.2.

reactant | {3-[3-(2-cyano-benzyl)-5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester | 0.13 mmol, 66 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC)=O)N1CC1=C(C=CC=C1)C#N)=O | C30H31N5O3
catalyst | Pd/C | 0.065 mmol, 70 mg | [Pd] | Pd
solvent | EtOH THF | 8 mL | CCO.C1CCOC1
product | 2-[2-(3-amino-cyclohexyl)-5-ethyl-4-oxo-4,5-dihydro-imidazo[4,5-c]pyridin-3-ylmethyl]-benzonitrile | 40 mg, 82% yield | NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC)=O)N1CC1=C(C#N)C=CC=C1 | C22H25N5O
